data/mechanisms/records/IMS4-EQ4.38b.json
{"mechanism_id": "IMS4-EQ4.38b", "species": [{"species_id": "hexene_distonic_radical_cation_mz84", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2:4][CH2:5][CH2+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butene_distonic_radical_cation_mz56", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral_loss", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexene_distonic_radical_cation_mz84"]}, {"state_id": "state_products", "species_ids": ["butene_distonic_radical_cation_mz56", "ethylene_neutral_loss"]}], "steps": [{"step_id": "step_i_inductive_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_i2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_i_inductive_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 76, "equation": "4.38", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (charge migration, inductive cleavage 'i')"}, "confidence": 0.85, "curator_note": "Second, lower half of eq 4.38: the m/z 84 distonic hydrocarbon radical cation (carbenium at map 6, carbon radical at map 3) undergoes an inductive ('i') charge-site cleavage. The C4-C5 sigma bond ionizes heterolytically toward the cation: both electrons form the new C5=C6 double bond (releasing neutral ethylene, H2C=CH2, maps 5/6) and the positive charge migrates from map 6 to map 4, giving the m/z 56 ion (100%, base peak). The carbon radical on map 3 is a spectator throughout, so m/z 56 is again a distonic radical cation (butene radical cation). ARC COUNT: the book draws 1 arc -- a single full (double-barbed) arrow spanning the breaking C4-C5 bond into the forming C5=C6 bond; move <1> carries electron_count 2, so no implicit hook is required. 'Charge migration' (labelled on the page): the charge ends up on the hydrocarbon rather than on the lost neutral."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "butene_distonic_radical_cation_mz56", "step_id": "step_i_inductive_ethylene_loss", "observed_mz": 56.0621, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
